US07906645B2
4-{[(3R)-1-(2-Azidoethyl)piperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-1-carboxamide
Methane sulphonyl chloride (0.4 ml) was added to a solution of N-(3,4-dichlorophenyl)-4-{[(3S)-1-(2-hydroxyethyl)piperidin-3-yl]methyl}piperazine-1-carboxamide (1.85 g, 4.45 mmol) in triethylamine (0.75 ml, 5.3 mmol) and dichloromethane (50 ml) at 0° C. under an atmosphere of argon. The reaction mixture was stirred at this temperature for one hour then water (100 ml) was added. The organic layer was separated, dried over magnesium carbonate, filtered then concentrated in vacuo. This material was then dissolved in anhydrous DMF (10 ml). Sodium azide (435 mg, 6.7 mmol) was added and the reaction mixture stirred overnight at 60° C. The reaction mixture was concentrated in vacuo and the residue separated between ethyl acetate (150 ml) and water (150 ml). The organic layer was separated, dried over magnesium carbonate, filtered then concentrated in vacuo onto silica gel (3 g). The resulting powder was subjected to chromatography (SiO2, 20 g) and the product eluted with a gradient of dichloromethane through to 10% methanolic ammonia/dichloromethane to yield the title compound as a white solid (105 mg)

reactant | Methane sulphonyl chloride | 0.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(3,4-dichlorophenyl)-4-{[(3S)-1-(2-hydroxyethyl)piperidin-3-yl]methyl}piperazine-1-carboxamide | 4.45 mmol, 1.85 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CN(CCC1)CCO | C19H28Cl2N4O2
reactant | triethylamine | 5.3 mmol, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | Sodium azide | 6.7 mmol, 435 mg | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 4-{[(3R)-1-(2-Azidoethyl)piperidin-3-yl]methyl}-N-(3,4-dichlorophenyl)piperazine-1-carboxamide | 105 mg | N(=[N+]=[N-])CCN1C[C@@H](CCC1)CN1CCN(CC1)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C19H27Cl2N7O
